US04287338
A mixture of 1.00 grams of 2-amino-4-methyl-6-(3,6-dihydro-1-(2H)-pyridinyl) pyrimidine-3-oxide, 1.15 grams of chlorosulfonic acid, and 2.50 grams of di-isopropylethylamine in 25 mls of chloroform is stirred overnight. The mixture is concentrated and the residue is stirred with aqueous sodium bicarbonate, filtered, and washed with ether to give 2-amino-6-methyl-4-(3,6-dihydro-1(2H)-pyridinyl)-1-(sulfooxy)-pyrimidinium hydroxide, inner salt.

reactant | 2-amino-4-methyl-6-(3,6-dihydro-1-(2H)-pyridinyl) pyrimidine-3-oxide | 1.00 grams | NC1=NC(=CC(=[N+]1[O-])C)N1CCC=CC1 | C10H14N4O
reactant | chlorosulfonic acid | 1.15 grams | ClS(=O)(=O)O | ClHO3S
reactant | di-isopropylethylamine | 2.50 grams | C(C)(C)N(CC)C(C)C | C8H19N
solvent | chloroform | 25 mls | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-6-methyl-4-(3,6-dihydro-1(2H)-pyridinyl)-1-(sulfooxy)-pyrimidinium hydroxide | [OH-].NC1=[N+](C(=CC(=N1)N1CCC=CC1)C)OS(=O)(=O)O | InChI=1S/C10H14N4O4S.H2O/c1-8-7-9(13-5-3-2-4-6-13)12-10(11)14(8)18-19(15,16)17;/h2-3,7,11H,4-6H2,1H3,(H,15,16,17);1H2
